.title Inverting OpAmp amplifier
*file OpAmp.cir
.include LF356.MOD
XU1 3 2 7 4 6 LF356/NS
R1 2 in 1k
Vin in 0 dc 0 ac 1
Vp 7 0 5
Vm 4 0 -5
Vin+ 3 0 0
R2 6 2 100k
.end
.control
dc Vin -50m 50m 2m
plot v(in) v(6)
.endc
